US06300316B1
2-Methoxymethyl-5-(2-methoxyphenyl)-1-(2-aminoethyl)-tetrahydropyrrole
To a solution of 2-methoxymethyl-5-(2-methoxyphenyl)-(2-phthalimidoethyl)-tetrahydropyrrole (333 mg, 0.85 mmol) in ethanol (5 mL) was added anhydrous hydrazine (80 μl, 2.5 mmol). The resulting suspension was stirred at room temperature for 3 days. The reaction mixture was filtered through Celite™, and the solid was washed with methanol (40 mL). The filtrate was concentrated in vacuo, the residue was triturated with CH2Cl2 (40 mL) and filtered to remove any remaining byproduct. The filtrated was again concentrated to afford the title compound as a light yellow oil (211 mg). MS m/z: 265 (M+H).

reactant | 2-methoxymethyl-5-(2-methoxyphenyl)-(2-phthalimidoethyl)-tetrahydropyrrole | 0.85 mmol, 333 mg | COCC1N(C(CC1)C1=C(C=CC=C1)OC)CCN1C(C=2C(C1=O)=CC=CC2)=O | C23H26N2O4
reactant | hydrazine | 2.5 mmol, 80 μl | NN | H4N2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-Methoxymethyl-5-(2-methoxyphenyl)-1-(2-aminoethyl)-tetrahydropyrrole | 211 mg | COCC1N(C(CC1)C1=C(C=CC=C1)OC)CCN | C15H24N2O2
